* ============================================================
* Generic Single-Ended OpAmp Stability Testbench
*
* Standard DUT interface:
* .subckt DUT VINP VINN VOUT VDD VSS IBIAS
*
* Configuration:
*   Unity-gain negative feedback
*
* Metrics:
*   Loop Gain
*   Unity Loop-Gain Frequency
*   Phase Margin
* ============================================================


* ============================================================
* PDK / DUT
* ============================================================

.lib "{{PDK_PATH}}" {{CORNER}}

.include "{{DUT_PATH}}"


* ============================================================
* Temperature
* ============================================================

.temp {{TEMP}}


* ============================================================
* Supply
* ============================================================

VDD_SRC VDD 0 DC {{VDD}}
VSS_SRC VSS 0 DC {{VSS}}


* ============================================================
* Bias Current
* ============================================================

IBIAS_SRC VDD IBIAS DC {{IBIAS}}


* ============================================================
* Non-Inverting Input
* ============================================================

VINP_SRC INP VSS DC {{VCM}}


* ============================================================
* Loop Break / AC Injection
*
* DC:
*   LFB -> short
*   CINJ -> open
*
* Therefore:
*   INN = OUT
*
* and the DUT remains in unity-feedback bias condition.
*
* AC:
*   LFB -> high impedance
*   CINJ -> low impedance
*
* VINJ injects a 1-V AC perturbation into INN.
* ============================================================

VINJ INJ VSS DC 0 AC 1

CINJ INJ INN 1

LFB OUT INN 1e12


* ============================================================
* DUT
* ============================================================

XDUT INP INN OUT VDD VSS IBIAS DUT


* ============================================================
* Output Load
* ============================================================

CLOAD OUT VSS {{CL}}


* ============================================================
* AC Analysis
* ============================================================

.ac dec {{AC_POINTS_PER_DEC}} {{AC_START}} {{AC_STOP}}


* ============================================================
* Control
* ============================================================

.control

run

set wr_singlescale
set wr_vecnames
option numdgt=15


* ============================================================
* Loop Gain
*
* Vinp(ac) = 0
*
* A = Vout / (Vinp - Vinn)
*
* Therefore:
*
* A = -Vout / Vinn
*
* For unity feedback:
*
* L = A
* ============================================================

let loop_gain = -v(OUT) / v(INN)

let loop_gain_db = db(loop_gain)

let loop_phase_deg = 180/pi*cph(loop_gain)


* ============================================================
* Unity Loop-Gain Frequency
* ============================================================

meas ac loop_ugf_hz WHEN loop_gain_db=0 FALL=1


* ============================================================
* Phase at Unity Loop-Gain Frequency
* ============================================================

meas ac phase_at_ugf_deg FIND loop_phase_deg WHEN loop_gain_db=0 FALL=1


* ============================================================
* Phase Margin
*
* PM = 180 deg + phase(L) at |L| = 1
* ============================================================

let phase_margin_deg = 180 + phase_at_ugf_deg


* ============================================================
* Output
* ============================================================

print loop_ugf_hz
print phase_at_ugf_deg
print phase_margin_deg


* ============================================================
* Save Full Loop-Gain Response
* ============================================================

wrdata "{{STABILITY_OUTPUT_PATH}}" loop_gain_db loop_phase_deg


quit

.endc


.end